US08314087B2
2-(4-(tert-Butyldimethylsilyloxy)phenyl)ethanol.
To a stirring suspension of lithium aluminum hydride (893 mg, 23.5 mmol) in diethyl ether (30 mL) at 0° C. under nitrogen was added dropwise a solution of methyl 2-(4-(tert-butyldimethylsilyloxy)phenyl)acetate (3300 mg, 11767 μmol) in diethyl ether (20 mL). The mixture was stirred for 90 min, then quenched with solid sodium sulfate hexahydrate (10 g). The suspension was stirred for 45 min and the salts were removed via filtration with ether washings. The solvents were removed under reduced pressure and the residue was purified on 120 grams of silica eluting with 0-20% EtOAc/hexane to give a colorless oil. MS (ESI pos. ion) m/z (MH+): 255. Calc'd exact mass for C14H24O2Si: 254. 1H NMR (400 MHz, Chloroform-d) δ ppm 0.19 (s, 6 H) 0.98 (s, 9 H) 1.39 (t, J=6.02 Hz, 1 H) 2.80 (t, J=6.53 Hz, 2 H) 3.82 (q, J=6.19 Hz, 2 H) 6.78 (d, J=8.53 Hz, 2 H) 7.08 (d, J=8.53 Hz, 2 H).

reactant | lithium aluminum hydride | 23.5 mmol, 893 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2-(4-(tert-butyldimethylsilyloxy)phenyl)acetate | 11767 μmol, 3300 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CC(=O)OC | C15H24O3Si
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 2-(4-(tert-Butyldimethylsilyloxy)phenyl)ethanol | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCO | C14H24O2Si
